US06914074B2
1-Chloro-6-(3-chloro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 6-(3-chloro-4-hydroxyphenyl)-2-naphthol (500 mg, 1.85 mmol) and NCS (346 mg, 2.59 mmol) in THF (37 mL) according to method A to yield 380 mg (68%) of yellowish solid: mp 174-175° C.; 1H NMR (DMDO-d6): δ 7.09 (1H, d, 8.47 Hz), 7.31 (1H, d, J=8.89 Hz), 7.60 (1H, dd, J=8.20 Hz, J=2.26 Hz), 7.78 (1H, d, J=2.22 Hz), 7.84 (1H, d, J=8.99 Hz), 7.88 (1H, dd, J=9.00 Hz, J=1.80 Hz), 8.05 (1H, d, J=8.86 Hz), 8.14 (1H, d, J=1.60 Hz), 10.37 (1H, s), 10.49 (1H, s);MS (ESI) m/z303/305/307 (M−H)−.

reactant | 6-(3-chloro-4-hydroxyphenyl)-2-naphthol | 1.85 mmol, 500 mg | ClC=1C=C(C=CC1O)C=1C=C2C=CC(=CC2=CC1)O | C16H11ClO2
reactant | NCS | 2.59 mmol, 346 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 37 mL | C1CCOC1 | C4H8O
product | 1-Chloro-6-(3-chloro-4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=CC(=C(C=C1)O)Cl)O | C16H10Cl2O2
